US09233956B2
Step B: N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(2-hydroxy-1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described for Intermediate 9 using N-{3-[(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (750 mg, 1.7 mmol), NBS (317 mg, 1.782 mmol), and 3-hydroxy-2,2-dimethylpropanethioamide (248 mg, 1.86 mmol), the title compound was obtained as an yellow foam (460 mg, 45%). A portion of the sample was crystallized from ethyl acetate-hexanes. 1H NMR (400 MHz, DMSO-d6) δ ppm 10.92 (s, 1H) 8.54 (d, J=5.31 Hz, 1H) 7.64-7.74 (m, 1H) 7.41-7.50 (m, 2H) 7.31-7.36 (m, 1H) 7.24 (t, J=8.97 Hz, 2H) 6.87 (d, J=5.31 Hz, 1H) 5.2-5.4 (br s, 1H) 3.54 (s, 2H) 1.36 (s, 6H). MS (ESI): 555.0 [M+H]+.

reactant | N-{3-[(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 1.7 mmol, 750 mg | ClC1=NC=CC(=N1)CC(=O)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C18H11ClF3N3O3S
reactant | NBS | 1.782 mmol, 317 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 3-hydroxy-2,2-dimethylpropanethioamide | 1.86 mmol, 248 mg | OCC(C(N)=S)(C)C | C5H11NOS
product | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(2-hydroxy-1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(CO)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C23H18ClF3N4O3S2
